### PR TITLE
feat: add `impossible` tactic combinator

### PR DESCRIPTION
**Pull request by nomeata**
This PR adds a new `impossible by t` tactic combinator and wires it into the
default suggestion set of `try?`.

`impossible by t` uses the tactic `t` to prove that the current goal is
impossible. If the goal is `xs ⊢ P`, the tactic `t` sees the goal
`¬(∀ xs, P)`. Any expression metavariables in the original goal turn into
named variables in the local context, so `t` can `intro`/`cases` over each
existential witness directly. This makes `impossible` usable on
under-determined goals such as the proof obligation left by
`refine Exists.intro ?_ ?h; case h => …`:

```lean
example : ∃ x, x * x = 2 := by
  refine Exists.intro ?w ?h
  case h => impossible by intro hx; cases w <;> grind
  case w => exact 0
```

The original goal is closed as if `sorry` were used. Failure of `t` is
propagated cleanly, so combinators like `first` see it correctly.

`impossible +levels by t` additionally abstracts the universe parameters of
the surrounding declaration as fresh level metavariables, so `t` can refute
a universe-polymorphic claim by exhibiting witnesses at specific universes
(or leave the universes parametric).

`try?` gains an `impossible` branch — between `atomic` and
`atomicSuggestions` — that runs `impossible by decide`, `impossible by
simp`, and `impossible by grind` in parallel.

### CODE REVIEW

**Comment by Rob23oba** [comment]
Regarding the idea of the tactic; is there a reason why the proof is provided as a term and not just as a new goal? I would find it simpler if this was a simple tactic `impossible foo` that changed a goal
```
x : a
y : b
⊢ c
```
to
```
foo : (x : a) → (y : b) → c
⊢ False
```
and `impossible` would work as `impossible this`.

**Comment by nomeata** [comment]
The intented usage is `impossible by …`; that it take (or rather took) a term was just so that one can re-use the `by` elaborator. This didn’t work well with error recovery, so the syntax is now `impossible by $tac`.

I find this somehow more pleasing than `impossible $tac`, it reads more smoothly. Or would you argue that `impossible $tac` is better?

Oh, now I see what you mean, you want the tactic continuation to have the refutation proof… that’s clever, but is it really helpful and easy to understand?

**Comment by Rob23oba** [comment]
Well I'd expect a tactic to produce any new goals as ... new goals, no? Also if I read [this](https://github.com/leanprover/lean4/blob/e09155b6f91642c2e50c3eb476823947200a90d0/src/Lean/Elab/Tactic/ElabTerm.lean#L30-L31) properly, there might be some problems regarding incrementality when `by` blocks are nested. Furthermore, Aristotle seems to emit a similar tactic, `negate_state`, which also just creates a new goal.

**Comment by nomeata** [comment]
Its cosmetics, I think. Why does `have` not just create new goals?

**Comment by eric-wieser** [comment]
Does this work correctly with universes? Here's a test-case:
```lean4
theorem weird (α : Type u) (β : Type v) : ¬(ULift.{v} α = ULift.{u} β) := by
  impossible by
    intro h
    cases h Unit Unit rfl
```

File: src/Lean/Elab/Tactic/Impossible.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+  -- like `first`, while direct user-facing uses still observe the inner
+  -- messages and get a `sorry` from the outer `by`.
+  let negMVarId := (← mkFreshExprSyntheticOpaqueMVar negType).mvarId!
+  try
+    setGoals [negMVarId]
+    withTacticInfoContext byTk do
+      evalTactic tacs
+      done
+  finally
+    setGoals restGoals
```
Comment (eric-wieser) [inline src/Lean/Elab/Tactic/Impossible.lean:97]: Can you add the negated term to the environment, such that it is still checked by the kernel? Then perhaps hovering over `impossible` would show the generated declaration in the hover.

**Comment by eric-wieser** [comment]
> Furthermore, Aristotle seems to emit a similar tactic, `negate_state`, which also just creates a new goal.

The Alphaproof tool does something similar, emitting
```lean
open Lean Meta Qq in
  run_tac Elab.Tactic.liftMetaTactic fun goal => do
    let u ← mkFreshLevelMVar; let newGoal ← goal.revertAll
    [do mkAuxDefinitionFor (← mkAuxDeclName `disproof) q(sorry : ∀ {α : Prop}, ¬α → α),
     do mkAuxDefinitionFor (← mkAuxDeclName `uninhabited) q(sorry : ∀ {α : Sort u}, (α → False) → α)].firstM fun f =>
      commitIfNoEx <| f >>= newGoal.apply
```
within the proof script (rather than trying to inject a new tactic into the users code).

File: src/Lean/Elab/Tactic/Impossible.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+  let byTk := stx[1]
+  let tacs := stx[2]
+  let mainGoal ← getMainGoal
+  let goalType ← mainGoal.withContext do instantiateMVars (← mainGoal.getType)
+  if goalType.hasExprMVar then
+    throwErrorAt kw "\
+      `impossible`: goal contains metavariables{indentExpr goalType}"
+  if goalType.hasLevelMVar then
+    throwErrorAt kw "\
+      `impossible`: goal contains universe metavariables{indentExpr goalType}"
```
Comment (eric-wieser) [inline src/Lean/Elab/Tactic/Impossible.lean]: Could you add a comment giving the motivation to ban these?

Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean]: If there are unassigned MVars around, just negating the goal is of course not quite the right thing - whether the goal is possible depends a lot on which value the MVars should eventually be assigned to.

I could try to create the goal that the goal is not possible for *any* mvar assignment. For expression MVars that might work, inserting them as existential MVars somewhere, but is that even possible for level MVars? The negated goal would have to universally quantify over all levels somehow, wouldn't it?

(I didn't think this through too much, maybe there is an easy way?)

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 1 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: Good idea about the kernel check.

Why the hover? Usually we don't show aux decls to the user

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 2 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean]: But now that I write this, and your example above, it of course does not work correctly with universe parameters, for the reason I just wrote: We cannot easily negate the ∀ that’s implicit in a universe parameter.

Should the negation of 
```
theorem weird (α : Type u) (β : Type v) : ¬(ULift.{v} α = ULift.{u} β) := by
```
be
```
∃ (α : Type ?u) (β : Type ?v), ULift.{v} α = ULift.{u} β
```
maybe? I.e. all universe parameters should be turned *into* level mvars? Not sure ho well that works in practice.

OTOH, the current code is not complete in the sense that it may be the that both the theorem and it’s `impossible` negation are false. But it should still be the case that *if* the `impossible` tactic passes, that then the original goal is impossible?

Essentially because `(∀ u, Not P) → Not (∀ u, P)`  as long `u` ranges over something nonempty, and universes are nonempty?

Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean]: > I.e. all universe parameters should be turned _into_ level mvars? Not sure ho well that works in practice.

Yes, this is what I'd propose, but indeed this may be messy

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 1 above)
Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: The Hover would be so that you can easily extract a name to pass to `#print axioms`, or to check the negated statement is as expected.

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 2 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean]: I’m inclined to keep it simple, tactic friendly and less complete for now.

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 1 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: To check the negated statement, you can look at the proof state.

I don’t think I’d like to expose the internals that much; the use case I build this for (humans using `try?`) certainly doesn’t need that.

I wonder if your use case (if I guess it correctly) is better served by a command
```
counterexample name binders* : term := by
```
or
```
refutation name binders* : term := by
```
(or `not_a_theorem` or so) where the proof goal after `by` is the negation (as with `impossible`), and then `name` is a declaration of this negation. Then you give a name to an artifact you want to keep around.

Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: > I wonder if your use case (if I guess it correctly) is better served by a `counterexample` command

This would be great for mathlib's `Counterexamples` directory, but isn't really helpful for my use case, which needs to work for subgoals of a large proof.

> I don’t think I’d like to expose the internals that much; the use case I build this for (humans using try?) certainly doesn’t need that.

Humans will want to know if `try` is discovering a proof term that sneaks in a sorry axiom; if `try?` produces `impossible by simp` due to a `@[simp] lemma oops : False := sorry` hiding in another file, then as a human I want some way of inspecting the axioms of the disproof to be really sure that nothing fishy is going on.

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 2 above)
Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean]: Do you have evidence that universe mvars are not tactic friendly here?

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 1 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: Then that's better served by including the counter proof in the actual proof term, as you do above with the `sorry` … if the user could tell the sorries apart.


I also don't know if people will investigate these counter example proofs that much. Maybe something for later when and if this feature gets actually used.

Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean:97]: Right, the downsides of directly including the counter-proof in the proof term are:
* If you use `sorry` as I do in my comment, you can't easily tell which sorry is which (though I think the named sorry change make this possible)
* If you use axioms (which means you can no longer inline the meta code), as I believe Aristotle does, then you still are not protected against `impossible by exfalso; impossible by rintro \<>`, since you can't ask "apart from the outer axiom usage, did any unwanted axioms get used".

File: src/Lean/Elab/Tactic/Impossible.lean (hunk 2 above)
Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean]: I at least don't expect tactics to *instantiate* them cleverly to prove a goal, and then they are no better than universally quantified (maybe I’m pessimistic here?). And I’d have to abstract over them before creating the proof term.

With cunning, possibly AI-generated proofs, things look a bit difference… but still more advanced than needed for the “try? tells you about obviously false proofs”.

Comment (eric-wieser) [reply src/Lean/Elab/Tactic/Impossible.lean]: It's fairly common on Zulip to end up with a statement about `Module`s that turns out be false if the universes are wrong. It would be great if a human was able to reply to these posts with "this is `impossible by` followed by a hand-written proof.

Here's a case where expression metavariables would also be useful:
```lean
example : ∃ x, x * x = 2 := by
  constructor
  · impossible by
      intro x hx
      cases x <;> grind
```

So I think the rule is:
* Replace universe variables with universe metavariables
* Universally quantify over all expression metavariables

Comment (nomeata) [reply src/Lean/Elab/Tactic/Impossible.lean]: Ok, I gave it a shot. I hope I won't regret it, with all the corner cases there can be with MVars…

File: src/Lean/Elab/Tactic/Impossible.lean [hunk 3]
```diff
@@ -0,0 +1,149 @@
...
+  -- via its `case`/`closeUsingOrAdmit` expansion). Both inner elaboration
+  -- errors and unsolved goals therefore propagate naturally to combinators
+  -- like `first`, while direct user-facing uses still observe the inner
+  -- messages and get a `sorry` from the outer `by`.
+  let negMVarId :=
+    (← mkFreshExprMVarAt {} {} negType (kind := .syntheticOpaque)).mvarId!
+  -- Intro the abstracted-mvar binders so the user's tactic sees them as
+  -- local hypotheses rather than as a leading `∀`. We pass cleaned-up
+  -- names (with hygiene scopes erased) so the introduced fvars are
+  -- accessible to the user by name.
```
Comment (Rob23oba) [inline src/Lean/Elab/Tactic/Impossible.lean]: Shouldn't names without macro scopes always be explicitly provided by the user? This is certainly not always the case for metavariable names, so I would think that keeping macro scopes would be the right thing to do here. And if you don't want hygiene, we already have combinators like `expose_names` and `unhygienic`.
